US06313299B1
1-Cyclopropyl-6,8-difluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid
150 mg of 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2.6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6,8-difluoro-4-oxo-1.4-dihydro-3-quinolinecarboxylic acid was dissolved in 5 ml of dichloromethane and thereto 1 ml of trifluoroacetic acid was added dropwise. The mixture was stirred for 5 hours at room temperature and thereto 10 ml of ethylether was added. It was additionally stirred for 1 hour, and thus precipitated solid was filtered and dried. Thus obtained solid was dissolved in 5 ml of diluted sodium hydroxide and neutralized with diluted hydrochloric acid. The resulting precipitate was filtered and dried to give 115 mg of the titled compound(yield: 87.4%).

reactant | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2.6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6,8-difluoro-4-oxo-1.4-dihydro-3-quinolinecarboxylic acid | 150 mg | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2F)C2CC2)C(=O)O)=O)F | C25H28F2N4O6
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethylether | 10 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Cyclopropyl-6,8-difluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 115 mg, yield: 87.4% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC2(CNC2)C(C1)=NOC)F)=O)C(=O)O | C20H20F2N4O4
